US06608072B1
e) 2-(4-Fluorophenyl)-1-(2-cyclopentylamino-4-pyrimidinyl)-5-vinylimidazo[4,5-b]pyridine
2-(4-Fluorophenyl)-1-(2-cyclopentylamino-4-pyrimidinyl)-5-chloroimidazo[4,5-b]pyridine (50 mg 0.12 mmol), vinyltributylstannane (4.3 ml 0.15 mmol) and PdCl2(PPh3)2 (8.6 mg 0.01 mmol) are dissolved in xylene (1 ml) and heated to 160° C. for 1 h under argon. The reaction mixture is purified over SiO2 (acetone/hexanes 15/85) to yield the title compound as colorless crystals (42 mg 86%)

reactant | 2-(4-Fluorophenyl)-1-(2-cyclopentylamino-4-pyrimidinyl)-5-chloroimidazo[4,5-b]pyridine | 0.12 mmol, 50 mg | FC1=CC=C(C=C1)C=1N(C=2C(=NC(=CC2)Cl)N1)C1=NC(=NC=C1)NC1CCCC1 | C21H18ClFN6
reactant | vinyltributylstannane | 0.15 mmol, 4.3 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | xylene | 1 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | PdCl2(PPh3)2 | 0.01 mmol, 8.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-Fluorophenyl)-1-(2-cyclopentylamino-4-pyrimidinyl)-5-vinylimidazo[4,5-b]pyridine | 42 mg, 86% | FC1=CC=C(C=C1)C=1N(C=2C(=NC(=CC2)C=C)N1)C1=NC(=NC=C1)NC1CCCC1 | C23H21FN6
